US07943669B2
Step A: {4-[3-(4-Fluoro-phenylethynyl)-5-(4-methanesulfonyl-benzyloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
The title product was prepared from {4-[3-Bromo-5-(4-methanesulfonyl-benzyloxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (335 mg; 0.59 mmol), 1-ethynyl-4-fluorobenzene (142.3 mg; 1.19 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 140 mg (39%). HPLC-MS: m/z: 605.5 (M+H)+; Rt: 2.80 min.

reactant | {4-[3-Bromo-5-(4-methanesulfonyl-benzyloxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.59 mmol, 335 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCC1=CC=C(C=C1)S(=O)(=O)C)Br)C)=O | C25H25BrO6S2
reactant | 1-ethynyl-4-fluorobenzene | 1.19 mmol, 142.3 mg | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {4-[3-(4-Fluoro-phenylethynyl)-5-(4-methanesulfonyl-benzyloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCC1=CC=C(C=C1)S(=O)(=O)C)C#CC1=CC=C(C=C1)F)C)=O | C33H29FO6S2
